US08461107B2
Step 2: 3-Allyl-7-bromoquinazoline-2,4(1H,3H)-dione
BOP (8.47 g, 19.16 mmol) was added to a solution of 4-bromo-2-[(ethoxycarbonyl)amino]benzoic acid (4.6 g, 15.97 mmol), N-methylmorpholine (3.51 ml, 31.9 mmol) and allylamine (1.434 ml, 19.16 mmol) in DMF (50 ml) at room temperature. The mixture was allowed to stir at room temperature for 4 hrs. DBU (24.07 ml, 160 mmol) was added to the reaction and the temperature was raised to 60° C. The mixture let was allowed to stir at 60° C. for 1 hr. The mixture was quenched into 0.5 N HCL (200 mL), and the pH was adjusted to 1.5 with 3N HCL. Thick white solids were observed. The reaction was diluted to ˜400 mL with water let stir 10 min and solids filtered. The solids were washed with 0.5 N HCL (50 mL) and then slurry washed with water and sucked dry overnight to give the title compound (4.5 gm, 100%) as a solid. LCMS (ES+) m/z 280.87 (M+H)+.

reactant | BOP | 19.16 mmol, 8.47 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-bromo-2-[(ethoxycarbonyl)amino]benzoic acid | 15.97 mmol, 4.6 g | BrC1=CC(=C(C(=O)O)C=C1)NC(=O)OCC | C10H10BrNO4
reactant | N-methylmorpholine | 31.9 mmol, 3.51 ml | CN1CCOCC1 | C5H11NO
reactant | allylamine | 19.16 mmol, 1.434 ml | C(C=C)N | C3H7N
reactant | DBU | 160 mmol, 24.07 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-Allyl-7-bromoquinazoline-2,4(1H,3H)-dione | 4.5 gm, 100% | C(C=C)N1C(NC2=CC(=CC=C2C1=O)Br)=O | C11H9BrN2O2
